US06759408B2
3-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]-oxazin-6-yl)phenylacetonitrile
Prepared from 3-bromophenylacetonitrile and (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-oxazin-6-yl)boronic acid. White solid: mp 188-190° C.; 1H-NMR (DMSO-d6) δ10.33 (s, 1H), 7.62 (m, 2H), 7.55 (m, 2H), 7.48 (d, 1H, J=8.00 Hz), 7.33 (d, 1H, J=7.57 Hz), 6.99 (d, 1H, J=8.81 Hz), 4.09 (s, 2H), 1.67 (s, 6H); MS m/z 291(M−H). Anal. Calc. For C18H16N2O2.0.3 H2O: C, 72.61; H, 5.62; N, 9.41. Found: C, 73.00; H, 5.43; N, 8.81

reactant | 3-bromophenylacetonitrile | BrC=1C=C(C=CC1)CC#N | C8H6BrN
reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-oxazin-6-yl)boronic acid | CC1(OC(NC(=C1)B(O)O)=O)C | C6H10BNO4
solvent | H2O | O | H2O
product | 3-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]-oxazin-6-yl)phenylacetonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(C=CC2)CC#N)C | C18H16N2O2
